US05582764
39.7 g (0.1 mol) of 4-(trans-4-bromomethylcyclohexyl)-4'-trifluoromethoxybiphenyl was dripped into a mixture of 2.5 g (0.11 mol) of magnesium and 300 ml of THF to obtain a Grignard's reagent. This solution was then dripped into a 500 ml THF solution of 0.5 g of triethyl phosphate, 0.1 g of copper (I) iodide and 23.5 g (0.1 mol) of trans-1-bromomethyl-4-n-propyl-4-silacyclohexane. After a conventional after treatment, purification was conducted by means of chromatography to obtain 43.0 g (yield 88.0%) of 4-(trans-4-(2-(trans-4-n-propyl-4-silacyclohexyl)ethyl)cyclohexyl)-4'-trifluoromethoxybiphenyl was obtained.

reactant | 4-(trans-4-bromomethylcyclohexyl)-4'-trifluoromethoxybiphenyl | 0.1 mol, 39.7 g | BrC[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)OC(F)(F)F | C20H20BrF3O
reactant | magnesium | 0.11 mol, 2.5 g | [Mg] | Mg
reactant | trans-1-bromomethyl-4-n-propyl-4-silacyclohexane | 0.1 mol, 23.5 g | BrC[C@@H]1CC[Si@H](CC1)CCC | C9H19BrSi
catalyst | copper (I) iodide | 0.1 g | [Cu]I
catalyst | triethyl phosphate | 0.5 g | P(=O)(OCC)(OCC)OCC | C6H15O4P
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 4-(trans-4-(2-(trans-4-n-propyl-4-silacyclohexyl)ethyl)cyclohexyl)-4'-trifluoromethoxybiphenyl | 43.0 g, yield 88.0% | C(CC)[Si@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)OC(F)(F)F | C29H39F3OSi
